US07943622B2
Step 2. Synthesis of N-(4-chlorophenyl)-2-(pyridin-3-ylmethyl)piperazine-1-carboxamide dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to tert-butyl 4-(4-chlorophenylcarbamoyl)-3-(pyridin-3-ylmethyl)piperazine-1-carboxylate (105 mg, 0.193 mmol). After stirring overnight, the reaction mixture was concentrated under reduced pressure and purified by HPLC (5 to 50% MeCN/0.1% TFA in H2O/0.1% TFA gradient). The desired chromatography fractions were concentrated under reduced pressure, dissolved in MeOH (1 mL), and treated with 4 M HCl in 1,4-dioxane (6 mL). This was concentrated under reduced pressure, yielding 67.0 mg (86%) of the desired product as an off-white solid. LC-MS: RT=3.66 min, [M+H]+=331.1.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(4-chlorophenylcarbamoyl)-3-(pyridin-3-ylmethyl)piperazine-1-carboxylate | 0.193 mmol, 105 mg | ClC1=CC=C(C=C1)NC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)CC=1C=NC=CC1 | C22H27ClN4O3
product | N-(4-chlorophenyl)-2-(pyridin-3-ylmethyl)piperazine-1-carboxamide dihydrochloride | 67.0 mg, 86% | Cl.Cl.ClC1=CC=C(C=C1)NC(=O)N1C(CNCC1)CC=1C=NC=CC1 | InChI=1S/C17H19ClN4O.2ClH/c18-14-3-5-15(6-4-14)21-17(23)22-9-8-20-12-16(22)10-13-2-1-7-19-11-13;;/h1-7,11,16,20H,8-10,12H2,(H,21,23);2*1H
